US04587258
Heat under reflux cis-octahydrocyclopenta[b]pyrrole [prepared by the methods of A. Bertho, et al, Chem. Ber. 92, 2218 (1959), wherein 2-oxo-cyclopentyl acetic acid is cyclized by reduction with Raney Nickel/H2 in the presence of ammonia to obtain 2-keto-octahydrocyclopenta[b]pyrrole, which is then reduced with lithium aluminum hydride in etheral solution to yield ciso-octahydrocyclopenta[b]pyrrole, or by the method of A. G. Anderson, Jr., et al, J. Org. Chem. 43, 55 (1978), discussed above] and mercuric acetate in water or up to 10% aqueous acetic acid for twenty hours or more, to obtain cis-3,3a,4,5,6,6a-hexahydrocyclopenta[b]pyrrole. Dissolve this compound in water and treat with potassium cyanide followed by 2N hydrochloric acid at 0° C. for two hours and at room temperature for approximately twenty hours to obtain 2-cyano-cis-octahydrocyclopenta[b]pyrrole. Heat this resultant compound in 6N hydrochloric acid under reflux for 6 hours followed by concentration of the reaction mixture to obtain cis-octahydrocyclopenta[b]pyrrole-2-carboxylic acid. If desired, adsorb the residue on an XAD-2 resin column and elute with methanol. Esterify by reaction with ethanol to obtain ethyl cis-octahydrocyclopenta[b]pyrrole-2-carboxylate, as a mixture of two epimers.

reactant | 2-oxo-cyclopentyl acetic acid | O=C1C(CCC1)CC(=O)O | C7H10O3
reactant | ammonia | N | H3N
catalyst | Raney Nickel H2 | [Ni].[H][H]
product | 2-keto-octahydrocyclopenta[b]pyrrole | O=C1CC2C(N1)CCC2 | C7H11NO
